US08426402B2
(R)-1-(4-(benzyloxy)-5-methoxy-2-nitrobenzoyl)piperidine-2-carbaldehyde
(R)-Methyl 1-(4-(benzoyloxy)-5-methoxy-2-nitrobenzoyl)piperidine-2-carboxylate (1.50 g, 3.50 mmol) in 30 ml of 1:1 DCM/benzene at −78° C. was added 7.5 ml of 1.0 M DIBAL in toluene under Ar in 10 min. The mixture was stirred at −78° C. for 1 hr and the reaction was quenched with 0.5 ml of methanol. The mixture was diluted with 150 ml of EtAc and 100 ml of 0.2 M HCl. The organic solvent layer was separated and was separated and the aqueous layer was extracted with EtOAc (3×80 ml). The organics were combined, dried over MgSO4, filtered, concentrated and purified on SiO2 chromatography eluted with EtAc/hexane (3:2) to afford 1.52 g (90%) of the title product. 1H NMR (CDCl3), 9.60 (s, 1H), 7.70 (s, 1H), 7.65-7.28 (m, 5H), 6.78 (m, 1H), 5.16 (s, 2H), 3.92 (s, 3H), 3.22, (m, 1H), 3.01 (m, 1H), 2.20 (m, 1H), 1.84 (m, 1H), 1.65-1.40 (m, 4H); 13C NMR 200.24, 171.31, 155.13, 154.78, 148.41, 146.20, 137.57, 135.47, 129.03, 128.73, 127.31, 109.83, 109.41, 71.61, 64.50, 56.96, 45.98, 25.25, 23.42, 18.70; MS m/z+ 421.1 (M+Na).

reactant | (R)-Methyl 1-(4-(benzoyloxy)-5-methoxy-2-nitrobenzoyl)piperidine-2-carboxylate | 3.50 mmol, 1.50 g | C(C1=CC=CC=C1)(=O)OC1=CC(=C(C(=O)N2[C@H](CCCC2)C(=O)OC)C=C1OC)[N+](=O)[O-] | C22H22N2O8
reactant | DIBAL | 1.0 M, 7.5 ml | CC(C)C[AlH]CC(C)C
solvent | DCM benzene | 30 ml | C(Cl)Cl.C1=CC=CC=C1
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | (R)-1-(4-(benzyloxy)-5-methoxy-2-nitrobenzoyl)piperidine-2-carbaldehyde | 1.52 g, 90% | C(C1=CC=CC=C1)OC1=CC(=C(C(=O)N2[C@H](CCCC2)C=O)C=C1OC)[N+](=O)[O-] | C21H22N2O6
